US08383827B2
To a solution of DIPA (1.71 mL, 12 mmol) in THF (50 mL) at −78° C. was added 1.6M BuLi (7.5 mL, 12.0 mmol) and the mixture was stirred at −78° C. for 2 h. The LDA solution was cannulated into a solution of 3-bromo-4-chloropyridine (2.117 g, 11 mmol) in THF (50 mL) at −78° C., and the mixture was stirred at −78° C. for 1 h. A solution of N-(cyclopropylmethylene)methanesulfonamide (10 mmol, crude mixture) in THF (50 mL) was added and the mixture was stirred at −78° C. for 1 h. A solution of MeI (0.625 mL, 10 mmol) in THF (10 mL) was added, and the mixture was warmed to room temperature and stirred overnight. Water (0.5 mL) was added and the mixture was concentrated in vacuo. The residue was purified by silica gel chromatography eluting with a 0-50% EtOAc-heptane gradient to give N-((5-bromo-4-chloropyridin-3-yl)(cyclopropyl)methyl)-N-methylmethanesulfonamide. MS (ESI): m/z 353.0, 355.0 (M+H)+.

reactant | BuLi | 12.0 mmol, 1.6M, 7.5 mL | [Li]CCCC
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | 3-bromo-4-chloropyridine | 11 mmol, 2.117 g | BrC=1C=NC=CC1Cl | C5H3BrClN
reactant | N-(cyclopropylmethylene)methanesulfonamide | 10 mmol | C1(CC1)C=NS(=O)(=O)C | C5H9NO2S
reactant | MeI | 10 mmol, 0.625 mL | CI | CH3I
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | Water | 0.5 mL | O | H2O
product | N-((5-bromo-4-chloropyridin-3-yl)(cyclopropyl)methyl)-N-methylmethanesulfonamide | BrC=1C(=C(C=NC1)C(N(S(=O)(=O)C)C)C1CC1)Cl | C11H14BrClN2O2S
